US05457134
Synthesis of 3,4,4-trifluoro-3-butenoic acid, 2-aminoethyl ester, monohydrochloride (Compound 130)
A solution of 3,4,4-trifluoro-3-butenoyl chloride (1.97 g, 0.0124 mole) and N-t-Boc-aminoethanol (1.61 g, 0.010 mole) in dry ether (20 mL) is treated with triethylamine (1.25 g, 0.0124 mole) at -78° C. with stirring. The mixture is stirred for 30 min and allowed to reach room temperature and poured in 20 mL of water. The ether layer is successively washed with 5% sodium bicarbonate and brine and dried. The ether solution is saturated with dry HCl gas and stirred at room temperature for 30 min. The precipitate is filtered and dried to give 1.6 g of the title compound as a white solid, a 77% yield. m.p. 94°-100° C.

reactant | 3,4,4-trifluoro-3-butenoyl chloride | 0.0124 mole, 1.97 g | FC(CC(=O)Cl)=C(F)F | C4H2ClF3O
reactant | triethylamine | 0.0124 mole, 1.25 g | C(C)N(CC)CC | C6H15N
reactant | ether | 20 mL | CCOCC | C4H10O
solvent | water | 20 mL | O | H2O
product | 3,4,4-trifluoro-3-butenoic acid, 2-aminoethyl ester, monohydrochloride | 1.6 g, 77% yield | Cl.FC(CC(=O)OCCN)=C(F)F | InChI=1S/C6H8F3NO2.ClH/c7-4(6(8)9)3-5(11)12-2-1-10;/h1-3,10H2;1H
